US09126931B2
9-Ethyl-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
The ethyl acetate suspension of 8-methoxy-6,6-dimethyl-11-oxo-9-vinyl-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound E4-3, 25 mg, 0.07 mmol) and palladium carbon (25 mg) were stirred at room temperature for 1 hr under hydrogen atmosphere. The reaction solution was filtered through Celite. The filtrate was concentrated under reduced pressure and the resulting residues were purified by high performance liquid chromatography to obtain the title compound (white solid, 3.2 mg, 13%).

reactant | 8-methoxy-6,6-dimethyl-11-oxo-9-vinyl-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.07 mmol, 25 mg | COC=1C(=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1)C=C | C22H18N2O2
catalyst | palladium carbon | 25 mg | [C].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-Ethyl-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 3.2 mg, 13% | C(C)C1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1OC | C22H20N2O2
